.options savecurrents
	
* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vccvv 0 12.0
Vin invv 0 0 ac 1.0 sin(0 10m 1k)
Rin invv in2vv 0.1k

* input coupling capacitor
Cin in2vv basevv1 55uF

* bias circuit
R1 vccvv basevv1 220k
R2 basevv1 0 42k

vb1 basevv1 basevv 0 dc 0

* gain stage
Q1 collvv1 basevv emitvv1 BC547A
vc1 collvv collvv1 0 dc 0
ve1 emitvv1 emitvv 0 dc 0
Rc vccvv collvv 1k
Re emitvv 0 0.02k

* bypass capacitor
Cb emitvv 0 780uF

* output stage
Q2 0 collvv emit2vv1 BC557A
ve2 emit2vv emit2vv1 0 dc 0
Rout emit2vv vccvv 0.2k

* output coupling capacitor
Co emit2vv outvv 570uF

* load
RL outvv 0 0.008k
* optimal value is 10k

.op
.end

.control

* OP Analysis
op

echo  "op_TAB"
print vccvv
print invv
print in2vv
print basevv
print collvv
print emitvv
print emit2vv
print outvv
print @Rin[i]
print @R1[i]
print @R2[i]
print @Rc[i]
print @Re[i]
print @RL[i]
print @Rout[i]
print @Cin[i]
print @Cb[i]
print @Co[i]
print @vb1[i]
print @ve1[i]
print @vc1[i]
print @ve2[i]
*print @Q1[i]
*print @Q2[i]
echo  "op_END"


* time analysis
tran 1e-5 1e-2
plot v(collvv) 
hardcopy vo1_mb.eps vdb(collvv)


* frequency analysis
ac dec 10 10 100MEG
plot vdb(collvv)
plot vp(collvv)
hardcopy vo1f_mb.eps vdb(collvv)

* measure specific values for merit calculation
meas ac max MAX vdb(outvv) from=10e3 to=10e7
let lim = {max-3}
meas ac left WHEN vdb(outvv)=lim CROSS=1
meas ac right WHEN vdb(outvv)=lim CROSS=LAST
*.param bandwith = {right-left}
*print bandwith

plot vdb(outvv)
plot vp(outvv)
hardcopy vo2f_mb.eps vdb(outvv)

*input impedance in kohm
*print all

echo ---- Input impedance ----
plot abs(v(in2vv)[40]/vin#branch[40]/(-1000))
print v(in2vv)[40]/vin#branch[40]/(-1000)

*need a different setup to measure output impedance

.endc 

